CIRCUIT D:\Documents and Settings\sicard\Mes documents\software\Microwind\microwind35\examples\inverter\inv3LL.MSK
*
* IC Technology: CMOS 45nm - HighK/Metal/Strain - 8 Metal copper
*
VDD 1 0 DC 1.00
*
* List of nodes
* "N2" corresponds to n°2
* "s3" corresponds to n°4
* "s2" corresponds to n°5
* "s1" corresponds to n°6
*
* MOS devices
MN1 0 5 4 0 N2  W= 0.12U L= 0.04U
MN2 0 6 5 0 N2  W= 0.12U L= 0.04U
MN3 0 4 6 0 N2  W= 0.12U L= 0.04U
MP1 1 5 4 1 P2  W= 0.30U L= 0.04U
MP2 1 6 5 1 P2  W= 0.30U L= 0.04U
MP3 1 4 6 1 P2  W= 0.30U L= 0.04U
*
C3 1 0  0.577fF
C4 4 0  0.433fF
C5 5 0  0.208fF
C6 6 0  0.210fF
*
*
* high speed
.MODEL N2 NMOS LEVEL=14 VTHO=0.19 U0=0.020 TOXE= 3.5E-9 LINT=0.004U 
+K1 =0.750 K2=0.100 DVT0=2.300
+DVT1=0.540 LPE0=2.200e-9 ETA0=0.080
+NFACTOR=  0.1 UA=6.300e-15
+WINT=0.020U UC=-0.047e-15 PSCBE1=230.000e6
+KT1=-0.060 UTE=-1.800
+XJ=0.150U NDEP=170.000e15 PCLM=1.100
+VSAT=100000.000 VOFF=0.000
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p
*
* high speed
.MODEL P2 PMOS LEVEL=14 VTHO=-0.12 U0=0.018 TOXE= 3.5E-9 LINT=0.004U 
+K1 =0.650 K2=0.100 DVT0=2.300
+DVT1=0.540 LPE0=2.200e-9 ETA0=0.080
+NFACTOR=  0.1 UA=9.500e-15
+WINT=0.020U UC=-0.047e-15 PSCBE1=230.000e6
+KT1=-0.060 UTE=-1.800
+XJ=0.150U NDEP=170.000e15 PCLM=0.700
+VSAT=60000.000 VOFF=0.000
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p
*
* Transient analysis
*
* (Winspice)
.options temp=27.0
.control
tran 0.1N 0.50N
print  V(4) V(5) V(4) V(6) > out.txt
plot  V(4) V(5) V(4) V(6)
.endc
.END
